US08071588B2
A mixture of N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (0.800 g, 1.362 mmol), (3-formylphenyl)boronic acid (0.225 g, 1.5 mmol), tetrakis (triphenylphosphine) palladium (0) (0.058 g, 0.05 mmol), sodium carbonate (0.371 g, 3.5 mmol), and 1,4-dioxane (12 ml) and water (4 ml), with stirring under N2, was microwaved at 140° C. for 30 minutes. The reaction mixture was diluted with EtOAc and water and the organic layer taken off. It was washed with saturated NaCl, dried over Na2SO4, and evaporated resulting in a viscous taffy. The viscous taffy was purified on a Chromatotron Plate Silica Gel (1000μ) eluting with CH2Cl2— MeOH (97:3) to afford N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}propanediamide (526 mg, 91%) as a viscous, nearly colorless, taffy. LC-MS m/z 613.4 (M+H)+, 0.81 min (ret time).

reactant | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 1.362 mmol, 0.800 g | BrC=1C=C(C=CC1OC)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H35BrN6O4
reactant | (3-formylphenyl)boronic acid | 1.5 mmol, 0.225 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 3.5 mmol, 0.371 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.05 mmol, 0.058 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 4 ml | O | H2O
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}propanediamide | 526 mg, 91% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)C=O)=O)CC | C34H40N6O5
